US04511393
110 g of 3,7-dichloro-8-cyanoquinoline in 500 ml of dimethylformamide were refluxed for 20 hours, the solution was cooled, an amount of water corresponding to half the volume of the solution was added, and the precipitated solid was filtered off under suction. 100 g of 3-chloro-8-cyano-7-dimethylaminoquinoline of melting point 174° C. were obtained. Yield: 87% of theory.

reactant | 3,7-dichloro-8-cyanoquinoline | 110 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C#N | C10H4Cl2N2
reactant | water | O | H2O
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 3-chloro-8-cyano-7-dimethylaminoquinoline | 100 g, Yield: 87% | ClC=1C=NC2=C(C(=CC=C2C1)N(C)C)C#N | C12H10ClN3
